US07820704B2
1-Thiocarbamoyl-piperdine-3-carboxylic acid ethyl ester (400 mg) was prepared following general procedure D using piperdine-3-carboxylic acid ethyl ester (315 mg, 2.0 mmol), and Fmoc-isothiocyanate (562 mg, 2.0 mmol). Purification: (Silica gel, ethyl acetate/hexane 1:1). LCMS m/z 217.0 (M+1)+

reactant | piperdine-3-carboxylic acid ethyl ester | 2.0 mmol, 315 mg | C(C)OC(=O)C1CNCCC1 | C8H15NO2
reactant | Fmoc-isothiocyanate | 2.0 mmol, 562 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N=C=S | C16H11NO2S
product | 1-Thiocarbamoyl-piperdine-3-carboxylic acid ethyl ester | 400 mg | C(C)OC(=O)C1CN(CCC1)C(N)=S | C9H16N2O2S
